US03991205
T-Butyl 2,4,5-trichlorophenyl carbonate is a known compound and one method for its preparation is described in an article by W. Broadbent, J. S. Morley and B. E. Stone in the Journal of the Chemical Society (C), 1967 pages 2632-2637. Briefly, in this method a solution of phosgene in toluene is treated with 2,4,5-trichlorophenol at -10° C, followed by addition of dimethylaniline at such a rate that the reaction temperature is maintained at 5°-10° C. The mixture is heated to 20°-24° C and maintained at this temperature for 12 hours. The mixture is cooled by addition of ice and the suspension filtered. From the organic layer in the filtrate, 2,4,5-trichlorophenyl chloroformate is isolated. A solution of the crude 2,4,5-trichlorophenyl chloroformate in methylene chloride is reacted with a solution of t-butanol and quinoline in methylene chloride. The reaction mixture is maintained at 20°-24° C for 12 hours. The mixture is cooled by addition of ice and the suspension is filtered. From the organic layer in the filtrate t-butyl 2,4,5-trichlorophenyl carbonate is isolated.

reactant | T-Butyl 2,4,5-trichlorophenyl carbonate | C(OC(C)(C)C)(OC1=C(C=C(C(=C1)Cl)Cl)Cl)=O | C11H11Cl3O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2,4,5-trichlorophenol | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,4,5-trichlorophenyl chloroformate | ClC(=O)OC1=C(C=C(C(=C1)Cl)Cl)Cl | C7H2Cl4O2
